US06103517
(1) Preparation of 3-acetyl-1-propyloxy-propane
50 Grams of 3-acetyl-1-propanol was placed in a round-bottom flask, and 98 g of di-n-propylsulfuric acid and 90 ml of a 40% potassium hydroxide aqueous solution were concurrently dropwise added. The reaction temperature was maintained at 70 to 80° C. by adjusting the dropping amount. After the completion of the reaction, the reaction mixture was extracted with ether, and an ether layer was washed with water and then dried over anhydrous sodium sulfate. The ether was distilled off, and the remainder was vacuum-distilled for isolation and purification, to give 34.8 g of an end product (85° C./20 mmHg; yield 50%).

reactant | 3-acetyl-1-propanol | C(C)(=O)CCCO | C5H10O2
reactant | di-n-propylsulfuric acid | 98 g | C(CC)OS(OCCC)(=O)=O | C6H14O4S
reactant | potassium hydroxide | [OH-].[K+]
product | 3-acetyl-1-propyloxy-propane | 34.8 g, yield 50% | C(C)(=O)CCCOCCC | C8H16O2
